US07687529B2
Spiro[cyclohexane-1,3′-indol]-2′(1′H)-one (1.0 g, 5 mmol) was dissolved in dimethylformamide (10 mL) and NaH (0.21 g, 5.5 mmol) was added and the mixture was stirred 30 minutes then 3-fluorobenzyl bromide (1.04 g, 5.5 mmol) was added. The mixture was stirred 2 hours then quenched with saturated aqueous ammonium chloride, diluted with ether, washed with water, and saturated brine. The organic layer was separated, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The crude product was purified via Isco chromatography (Redisep, silica, gradient 0-20% ethyl acetate in hexane) to afford 0.8 g of 1′-(3-fluorobenzyl)spiro[cyclohexane-1,3′-indol]-2′(1′H)-one.

reactant | Spiro[cyclohexane-1,3′-indol]-2′(1′H)-one | 5 mmol, 1.0 g | N1C(C2(C3=CC=CC=C13)CCCCC2)=O | C13H15NO
reactant | NaH | 5.5 mmol, 0.21 g | [H-].[Na+]
reactant | 3-fluorobenzyl bromide | 5.5 mmol, 1.04 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1′-(3-fluorobenzyl)spiro[cyclohexane-1,3′-indol]-2′(1′H)-one | 0.8 g | FC=1C=C(CN2C(C3(C4=CC=CC=C24)CCCCC3)=O)C=CC1 | C20H20FNO
